US08372840B2
ii) [3-(2-Oxo-imidazolidin-1-yl)-phenyl]-carbamic acid tert-butyl ester
A solution of {3-[3-(2-chloro-ethyl)-ureido]-phenyl}-carbamic acid tert-butyl ester (1 g, 3.2 mmol) and potassium carbonate (1.32 g, 9.6 mmol) in dry tetrahydrofuran (20 ml) were stirred at room temperature overnight. No reaction was observed. Sodium hydride (260 mg, 6.5 mmol, 60% dispersion in oil) was then added and reaction stirred at room temperature overnight. Reaction was quenched with water (50 ml) then extracted with dichloromethane (3×50 ml). The combined organics were dried (magnesium sulphate) and concentrated in vacuo. HPLC retention time 7.0 min. Mass spectrum (ES+) m/z 295 (M+NH4)

reactant | {3-[3-(2-chloro-ethyl)-ureido]-phenyl}-carbamic acid tert-butyl ester | 3.2 mmol, 1 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)NC(=O)NCCCl)=O | C14H20ClN3O3
reactant | potassium carbonate | 9.6 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium hydride | 6.5 mmol, 260 mg | [H-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | [3-(2-Oxo-imidazolidin-1-yl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)N1C(NCC1)=O)=O | C14H19N3O3
